### PR TITLE
Fixing confusion about idempotency of abs

### PR DESCRIPTION
**Pull request by herbelin**
Fixing a confusion about the name `Z.abs_involutive` which is actually about idempotency.

- [ ] Added **changelog**.

I reused the word `idemp` which can be found in other `Zarith` names such as `Z.add_mod_idemp_r` (even if probably disputable). Outside`ZArith`, one can find e.g. ` Operators_Properties.clos_rst_idempotent` and `ssrfun.idempotent`.

### CODE REVIEW

File: theories/Numbers/Integer/Abstract/ZSgnAbs.v [hunk 1]
```diff
@@ -143,11 +143,14 @@ Proof.
  intros n. destruct_max n; rewrite ? opp_involutive; auto with relations.
 Qed.
 
-Lemma abs_involutive : forall n, abs (abs n) == abs n.
+Lemma abs_idemp : forall n, abs (abs n) == abs n.
 Proof.
  intros. apply abs_eq. apply abs_nonneg.
 Qed.
 
+#[deprecated(since="8.19", note="Use abs_involutive")]
```
Comment (yannl35133) [inline theories/Numbers/Integer/Abstract/ZSgnAbs.v:151]:
```suggestion
#[deprecated(since="8.19", note="Use abs_idemp")]
```
Unless I'm missing something

Comment (herbelin) [reply theories/Numbers/Integer/Abstract/ZSgnAbs.v]: Fortunate that you checked!

**Comment by proux01** [comment]
@coqbot run full ci

**Review by proux01 — APPROVED** [review]

**Comment by proux01** [comment]
@coqbot merge now
